US09120749B2
(R)-(6-bromo-4-(4-(3-fluoropyrrolidin-1-yl)cyclohexylamino)quinolin-3-yl)(cyclopropyl)methanone
Following General procedure C, (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone (278 mg, 0.89 mmol) was reacted with (R)-4-(3-fluoropyrrolidin-1-yl)cyclohexanamine (200 mg, 1.1 mmol) to afford the desired product (307 mg, 75%) as a yellow solid: ESI MS m/z 460 [C23H27BrFN3O+H]+.

reactant | (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone | 0.89 mmol, 278 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)Cl | C13H9BrClNO
reactant | (R)-4-(3-fluoropyrrolidin-1-yl)cyclohexanamine | 1.1 mmol, 200 mg | F[C@H]1CN(CC1)C1CCC(CC1)N | C10H19FN2
product | (R)-(6-bromo-4-(4-(3-fluoropyrrolidin-1-yl)cyclohexylamino)quinolin-3-yl)(cyclopropyl)methanone | 307 mg, 75% | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC1CCC(CC1)N1C[C@@H](CC1)F | C23H27BrFN3O
